US07592342B2
Preparation of 2-amino-5-bromo-N,N-dimethyl-3-pyridinesulfonamide
To a cold (0 □C) suspension of 2-amino-5-bromo-3-pyridinesulfonyl chloride (92.1 mmol) in dry 1,4-dioxane (92 mL) was added pyridine (101.3 mmol) followed by a 2M solution of dimethylamine in THF (101.3 mmol). The reaction was allowed to warm to rt for 2 h, heated to 50 □C for 1 h, then cooled to rt. After standing for 2 h, the precipitate was collected by filtration and rinsed with a minimal amount of cold water. Drying the precipitate to constant weight under high vacuum provided 14.1 g (55%) of the title compound as a white solid. MS(ES)+ m/e 279.8, 282.0 [M+H]+.

reactant | 2-amino-5-bromo-3-pyridinesulfonyl chloride | 92.1 mmol | NC1=NC=C(C=C1S(=O)(=O)Cl)Br | C5H4BrClN2O2S
reactant | pyridine | 101.3 mmol | N1=CC=CC=C1 | C5H5N
reactant | dimethylamine | CNC | C2H7N
reactant | THF | 101.3 mmol | C1CCOC1 | C4H8O
solvent | 1,4-dioxane | 92 mL | O1CCOCC1 | C4H8O2
product | 2-amino-5-bromo-N,N-dimethyl-3-pyridinesulfonamide | 14.1 g, 55% | NC1=NC=C(C=C1S(=O)(=O)N(C)C)Br | C7H10BrN3O2S
